US05618821
A solution of 3.0 g (7.36 mmol) of 2-methoxy-5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine and 3.6 ml (3.4 eq) of trimethylsilyl iodide in 60 ml of 1,2-dichloroethane was refluxed under nitrogen for 1 h. The above red solution was quenched with methanol, poured into water, and diluted with methylene chloride. The organic layer was washed with sodium bisulfite, dried over magnesium sulfate, and concentrated in vacuo. The residue was recrystallized from isopropyl acetate to afford 1 g (34.5%) of 5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-2(1H)-pyridone, as a white, flaky solid, m.p. 128.5°-130.5° C.

reactant | 2-methoxy-5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-pyridine | 7.36 mmol, 3.0 g | COC1=NC=C(C=C1)CCCOC1=C(C=C(C=C1C)C1=NOC(=N1)C(F)(F)F)C | C20H20F3N3O3
reactant | trimethylsilyl iodide | 3.6 ml, 3.4 eq | C[Si](C)(C)I | C3H9ISi
solvent | 1,2-dichloroethane | 60 ml | ClCCCl | C2H4Cl2
product | 5-[3-[4-(5-trifluoromethyl-1,2,4-oxadiazol-3-yl)-2,6-dimethylphenoxy]-propyl]-2(1H)-pyridone | 1 g, 34.5% | FC(C1=NC(=NO1)C1=CC(=C(OCCCC=2C=CC(NC2)=O)C(=C1)C)C)(F)F | C19H18F3N3O3
